US04012524
5-(1-Hydroxy-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole is prepared following substantially the same procedure described in Example 1, using the following substances: 5-(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole (6.54 g., 0.02 mole); potassium borohydride (2.0 g.); and water (200 ml.).

reactant | 5-(1-oxo-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole | 0.02 mole, 6.54 g | O=C(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)CC | C13H12Cl2N4O2
reactant | potassium borohydride | 2.0 g | [BH4-].[K+]
solvent | water | 200 ml | O | H2O
product | 5-(1-Hydroxy-2-ethyl-6,7-dichloro-5-indanyloxymethyl)tetrazole | OC(C1=NN=NN1)OC=1C=C2CC(CC2=C(C1Cl)Cl)CC | C13H14Cl2N4O2
